US07501411B2
Step 2: N-(3,6-Dibromo-pyrazin-2-yl)-N′-hydroxyformamidine
To a solution of N′-(3,6-dibromo-pyrazin-2-yl)-N,N-dimethylformamidine (18.6 g, 60.80 mmol) in methanol (200 mL) is added hydroxylamine hydrochloride (5.91 g, 85.12 mmol) in one portion. The reaction is stirred at room temperature for 16 hours. The solvent is evaporated and the solid residue is treated with cold (ice cooling) water and collected by filtration. The precipitate is washed twice with water and petroleum ether and dried in vacuo yielding the title compound (17.45 g) as a white solid. 1H-NMR (400 MHz, d6-DMSO) δ(ppm) 7.82 (1H, br s), 8.21 (1H, s), 8.34 (1H, m), 11.17 (1H, br s). LCMS: Rt 3.17 min (98.7%), m/z (APCI) 295 (M+H)+.

reactant | N′-(3,6-dibromo-pyrazin-2-yl)-N,N-dimethylformamidine | 60.80 mmol, 18.6 g | BrC=1C(=NC(=CN1)Br)N=CN(C)C | C7H8Br2N4
reactant | hydroxylamine hydrochloride | 85.12 mmol, 5.91 g | Cl.NO
solvent | methanol | 200 mL | CO | CH4O
product | N-(3,6-Dibromo-pyrazin-2-yl)-N′-hydroxyformamidine | 17.45 g | BrC=1C(=NC(=CN1)Br)NC=NO | C5H4Br2N4O
